US09024018B2
(E)-5-Nitro-4-(2-(thiophen-2-yl)vinyl)-1H-imidazole
Piperidine (1.7 g, 0.02 mol) was added to a suspension of 4-methyl-5-nitroimidazole (5 g, 0.04 mol) and 2-thiophenecarboxaldehyde (22 g, 0.2 mol) and heated at 100° C. for 15 hours. After cooling, DMF (5 mL) and IPA (15 mL) were added and the precipitate filtered from solution and washed with IPA (50 mL) to leave the product as a yellow solid (6.0 g, 69%). δH (DMSO-d6) 13.56 (1H, bs, NH), 7.90 (1H, s), 7.66 (1H, d, J=16.4), 7.66 (1H, d, J=5.0), 7.40 (1H, d, J=16.4), 7.35 (1H, d, J=3.6), 7.15 (1H, dd, J=3.6, 5.0).

reactant | Piperidine | 0.02 mol, 1.7 g | N1CCCCC1 | C5H11N
reactant | 4-methyl-5-nitroimidazole | 0.04 mol, 5 g | CC=1N=CNC1[N+](=O)[O-] | C4H5N3O2
reactant | 2-thiophenecarboxaldehyde | 0.2 mol, 22 g | S1C(=CC=C1)C=O | C5H4OS
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | IPA | 15 mL | CC(C)O | C3H8O
product | (E)-5-Nitro-4-(2-(thiophen-2-yl)vinyl)-1H-imidazole | 6.0 g, 69% | [N+](=O)([O-])C1=C(N=CN1)\C=C\C=1SC=CC1 | C9H7N3O2S
